US07294627B2
Hydrogen chloride gas is passed through a methanol (500 mL) solution of 1-t-butoxycarbonyl-4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine maintaining <20° C., for 5 minutes. The mixture is kept at this temperature for 1 hour before it is concentrated in vacuo providing 4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine hydrochloride (430 mg, 100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-t-butoxycarbonyl-4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1=CC(=NC=C1)C(F)(F)F)C | C18H26F3N3O2
solvent | methanol | 500 mL | CO | CH4O
product | 4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine hydrochloride | 430 mg, 100% | Cl.CN(C1=CC(=NC=C1)C(F)(F)F)CC1CCNCC1 | InChI=1S/C13H18F3N3.ClH/c1-19(9-10-2-5-17-6-3-10)11-4-7-18-12(8-11)13(14,15)16;/h4,7-8,10,17H,2-3,5-6,9H2,1H3;1H
